US06156892
In a 0.3-liter four-necked flask, 7.06 g (41.6 mmol) of 2-amino-6-chloropurine (manufactured by Sumika Fine Chemicals Co., Ltd.) and 12.4 g (89.7 mmol) of potassium carbonate were added to 188 ml of N,N-dimethylformamide, and the resulting mixture was stirred at room temperature for 30 minutes. Next, 16.0 g (61.2 mmol) of dimethyl 2,2,2-trichloroethylidenemalonate, which was prepared by the process described in U.S. Pat. No. 3,495,012, was added to the resulting mixture, and the mixture was stirred for four hours at room temperature. Thereafter, the reaction mixture was filtered, and the filtrate was poured into water. The precipitated crystals were collected by filtration, washed with 100 ml of water, and then dried under reduced pressure, to give 12.14 g (34.7 mmol) of white crystals of 2-amino-6-chloro-9-(3,3-dicarbomethoxy-2,2-dichlorocyclopropyl)purine. The yield was 83.4%.

reactant | 2-amino-6-chloropurine | 41.6 mmol, 7.06 g | NC1=NC(=C2NC=NC2=N1)Cl | C5H4ClN5
reactant | potassium carbonate | 89.7 mmol, 12.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-amino-6-chloro-9-(3,3-dicarbomethoxy-2,2-dichlorocyclopropyl)purine | NC1=NC(=C2N=CN(C2=N1)C1C(C1(C(=O)OC)C(=O)OC)(Cl)Cl)Cl | C12H10Cl3N5O4
solvent | N,N-dimethylformamide | 188 ml | CN(C=O)C | C3H7NO
product | dimethyl 2,2,2-trichloroethylidenemalonate | 61.2 mmol, 16.0 g, yield was 83.4% | ClC(C=C(C(=O)OC)C(=O)OC)(Cl)Cl | C7H7Cl3O4
